US05618953
The procedure in Example 1 was repeated to proceed with reaction except that in the second step of esterification, methanol in an amount by weight of 2.6 times that of the methyl 3-cyanoisobutyrate was intermittantly added dropwise to the content in the flask at 100° C. at atmospheric pressure under the reflux of methanol over a period of 5 hours; then at least 90% of water which was formed by the by-production of ether was removed outside the reaction system together with methanol; and additional methanol in an amount of 2.6 times that of the methyl 3-cyanoisobutyrate was intermittantly added dropwise to the content in the flask at 100° C. at atmospheric pressure under the reflux of methoanol over a period of 5 hours. As a result, dimethyl methylsuccinate was obtained at a yield of 97.6 mol % based on the fed methyl 3-cyanoisobutyrate, and by-production of dimethyl ether was at most 1 mol % based on the dimethyl methylsuccinate thus formed.

reactant | methanol | CO | CH4O
reactant | methyl 3-cyanoisobutyrate | C(#N)CC(C(=O)OC)C | C6H9NO2
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | dimethyl methylsuccinate | CC(C(=O)OC)CC(=O)OC | C7H12O4
